US04737516
(O) N-(2-methylthio-3-bromo-7-benzo[b]thienylmethyl)methylamine
To a solution of 2.55 g of N-(3-bromo-7-benzo[b]thienylmethyl)methylamine in abs. ether are added dropwise under inert gas at -70° 13.8 ml (2 equivalents) of a 15% solution of n-butyllithium in n-hexane. 1.9 ml of dimethyldisulfide are then added slowly at -70° and the reaction mixture gradually warmed to room temperature. It is then poured into ice-cooled 2N HCl, shaken and the acid phase separated, made alkaline with NaOH and extracted with ether. The ether phase is dried, concentrated under vacuum and the oil thus obtained directly further reacted.

reactant | N-(3-bromo-7-benzo[b]thienylmethyl)methylamine | 2.55 g | BrC=1C2=C(SC1)C(=CC=C2)CNC | C10H10BrNS
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyldisulfide | 1.9 ml | CSSC | C2H6S2
reactant | HCl | 2N | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | N-(2-methylthio-3-bromo-7-benzo[b]thienylmethyl)methylamine | CSC1=C(C2=C(S1)C(=CC=C2)CNC)Br | C11H12BrNS2
